US04105772
Methyl 3-(1-methyl-3-nitro-4-pyrazolyl)-acrylate
The same product is obtained when 0.22 g. of the 3-(1-methyl-3-nitro-4-pyrazolyl)-acrylic acid chloride described in Example 2 is allowed to react in 1.8 ml. methanol for 30 minutes at ambient temperature and the resultant crystals filtered off with suction.

reactant | 3-(1-methyl-3-nitro-4-pyrazolyl)-acrylic acid chloride | CN1N=C(C(=C1)C=CC(=O)Cl)[N+](=O)[O-] | C7H6ClN3O3
reactant | methanol | CO | CH4O
product | Methyl 3-(1-methyl-3-nitro-4-pyrazolyl)-acrylate | CN1N=C(C(=C1)C=CC(=O)OC)[N+](=O)[O-] | C8H9N3O4
